US09108948B2
4′-[(1R,2S)-2-(2-Hydroxyethyl)cycloprop-1-yl]biphenyl-4-carbonitrile
A solution of Example 26F (1.2 g, 5 mmol), 4-cyanophenylboronic acid [CAS 126747-14-6] (1.46 g, 2 equivalents), Pd(PPh3)2Cl2 (350 mg), and Cs2CO3 (6.5 g) in isopropanol (80 mL) under N2 was stirred at reflux overnight. The mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with saturated aqueous NaHCO3 and then with brine. The organic layer was then dried (MgSO4) and filtered. The filtrate was concentrated in vacuo and the resulting residue was purified by chromatography on silica gel eluted with 4:1 hexanes/ethyl acetate to provide the title compound. 1H NMR (300 MHz, CDCl3): δ 0.85-1.03 (m, 2H), 1.12-1.2 (m, 1H), 1.65-1.7 (m, 3H), 3.78 (t, J=6 Hz, 2H), 7.15 (d, J=9 Hz, 2H), 7.48 (d, J=9 Hz, 2H), 7.68 (q, J=9 Hz, 4H). MS (DCl—NH3) m/z 264 (M+H)+.

reactant | 4-cyanophenylboronic acid | 1.46 g, 2 equivalents | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | Cs2CO3 | 6.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | isopropanol | 80 mL | C(C)(C)O | C3H8O
catalyst | Pd(PPh3)2Cl2 | 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4′-[(1R,2S)-2-(2-Hydroxyethyl)cycloprop-1-yl]biphenyl-4-carbonitrile | OCC[C@H]1[C@@H](C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C18H17NO
